US04351842
2-Cyclopropyl-1-hydroxymethylisoindoline (3.8 g) was stirred with thionyl chloride (35 ml) for 3 hr. Thionyl chloride was evaporated to give crude 2-cyclopropyl-1-chloromethylisoindoline (as an oil) which was dissolved in chloroform (50 ml) and treated with diethylamine (15 ml). The reaction mixture was left for 12 hr, evaporated to dryness and the residue was partitioned between aqueous sodium hydroxide and ether. The ether layer was washed (water), evaporated to dryness in vacuo, and the residue was redissolved in ether and extracted with aqueous hydrochloric acid. The acidic extract was evaporated to dryness and the residue was recrystallised from iso-propanol/ethyl acetate to give 2-cyclopropyl-1-diethylaminomethylisoindoline dihydrochloride, (0.35 g, m.p. 150°).

reactant | 2-Cyclopropyl-1-hydroxymethylisoindoline | 3.8 g | C1(CC1)N1C(C2=CC=CC=C2C1)CO | C12H15NO
reactant | thionyl chloride | 35 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-cyclopropyl-1-chloromethylisoindoline | C1(CC1)N1C(C2=CC=CC=C2C1)CCl | C12H14ClN
